US06716861B2
(3R)-6-cyclohexyl-3-[3-(1,1-dioxido-2-isothiazolidinyl)-1,2,4-oxadiazol-5-yl]hexanoic acid
Sodium metal (114 mg, 5.00 mmol) was added in portions to MeOH (10 ml) at 0° C. and stirred until all of the sodium had dissloved (˜10 minutes). A solution of tert-butyl (3R)-3-(3-{[(3-chloropropyl)sulfonyl]amino}-1,2,4-oxadiazol-5-yl)-6-cyclohexylhexanoate (preparation 45) (245 mg, 0.50 mmol) in MeOH (3 ml) was added to the reaction mixture and was stirred under a nitrogen atmosphere for 3 days warming to room temperature over this time. The reaction was quenched with H2O and the solvent removed under reduced pressure. The residue was diluted with water and acidified with 2M HCl (pH˜3) and extracted with Et2O followed by EtOAc. The organic extracts were combined, dried over anhydrous MgSO4 and filtered. The solvent was removed under reduced pressure to afford the title compound as a colourless oil (203 mg, 98%).

reactant | Sodium | 5.00 mmol, 114 mg | [Na] | Na
reactant | tert-butyl (3R)-3-(3-{[(3-chloropropyl)sulfonyl]amino}-1,2,4-oxadiazol-5-yl)-6-cyclohexylhexanoate | 0.50 mmol, 245 mg | ClCCCS(=O)(=O)NC1=NOC(=N1)[C@@H](CC(=O)OC(C)(C)C)CCCC1CCCCC1 | C21H36ClN3O5S
solvent | MeOH | 3 ml | CO | CH4O
solvent | MeOH | 10 ml | CO | CH4O
product | (3R)-6-cyclohexyl-3-[3-(1,1-dioxido-2-isothiazolidinyl)-1,2,4-oxadiazol-5-yl]hexanoic acid | 203 mg, 98% | C1(CCCCC1)CCC[C@H](CC(=O)O)C1=NC(=NO1)N1S(CCC1)(=O)=O | C17H27N3O5S
